US05451594
To a stirred solution of 2-(4,4-difluorobut-3-enylthio)benzoxazole-5-carboxylic acid (400 mg) in dimethylformamide (5 cm3) was added sodium hydrogen carbonate (224 mg) and methyl iodide (284 mg). The reaction mixture was stirred at the ambient temperature for 1 hour. The reaction mixture was filtered through High-flo to remove solid material and the filtrate evaporated to give a yellow oil. This oil was taken up in ether and washed with water. The ether was dried (MgSO4) and evaporated to give a yellow oil when crystallised on standing. Recrystallisation from hexane gave methyl 2-(4,4-difluorobut-3-enylthio)benzoxazole-5-carboxylate as a white solid (31 mg). 1H NMR (CDCl3): δ8.29(1H,d); 8.03(1H,dd); 7.48(1H,d); 4.32(1H,ddt); 3.94(3H,s); 3.36(2H,t); 2.58(2H bq).

reactant | 2-(4,4-difluorobut-3-enylthio)benzoxazole-5-carboxylic acid | 400 mg | FC(=CCCSC=1OC2=C(N1)C=C(C=C2)C(=O)O)F | C12H9F2NO3S
reactant | sodium hydrogen carbonate | 224 mg | C(O)([O-])=O.[Na+]
reactant | methyl iodide | 284 mg | CI | CH3I
solvent | dimethylformamide | 5 cm3 | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | methyl 2-(4,4-difluorobut-3-enylthio)benzoxazole-5-carboxylate | 31 mg | FC(=CCCSC=1OC2=C(N1)C=C(C=C2)C(=O)OC)F | C13H11F2NO3S
